US09120819B2
Stage B: Methyl 2-amino-5-({1-[(3-hydroxybenzoyl)-amino]-2-methylindolizin-3-yl}carbonyl)benzoate
0.46 g (3.30 mmol) of potassium carbonate dissolved in 4 ml of water is added to the suspension of 0.80 g (1.65 mmol) of methyl 5-[(1-{[3-(acetyloxy)benzoyl]-amino}-2-methylindolizin-3-yl)carbonyl]-2-aminobenzoate in 16 ml of methanol. The reaction medium is stirred at ambient temperature for 1 hour, it gradually becomes homogenized. It is diluted with ethyl acetate and acidified with a molar solution of hydrochloric acid. The two phases are separated. The organic phase is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure. The solid obtained is taken up in ethyl ether and then filtered and dried. 0.61 g (84%) of a greenish yellow powder is obtained.

reactant | potassium carbonate | 3.30 mmol, 0.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 5-[(1-{[3-(acetyloxy)benzoyl]-amino}-2-methylindolizin-3-yl)carbonyl]-2-aminobenzoate | 1.65 mmol, 0.80 g | C(C)(=O)OC=1C=C(C(=O)NC=2C(=C(N3C=CC=CC23)C(=O)C=2C=CC(=C(C(=O)OC)C2)N)C)C=CC1 | C27H23N3O6
reactant | hydrochloric acid | Cl | ClH
solvent | water | 4 ml | O | H2O
solvent | methanol | 16 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | Methyl 2-amino-5-({1-[(3-hydroxybenzoyl)-amino]-2-methylindolizin-3-yl}carbonyl)benzoate | 0.61 g, 84% | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)NC(C1=CC(=CC=C1)O)=O)C | C25H21N3O5
